US07138533B2
5-Chloro-1-(2,3-dihydro-1-benzofuran-5-yl)-1-pentanone
Using 2,3-dihydro-1-benzofuran (24.5 g) and 5-chlorovaleryl chloride (34.8 g) according to the same method as that of Reference Example 1, the title compound was obtained as colorless crystals (32.4 g) having a melting point of 56 to 57° C.

reactant | 2,3-dihydro-1-benzofuran | 24.5 g | O1CCC2=C1C=CC=C2 | C8H8O
reactant | 5-chlorovaleryl chloride | 34.8 g | ClCCCCC(=O)Cl | C5H8Cl2O
product | 5-Chloro-1-(2,3-dihydro-1-benzofuran-5-yl)-1-pentanone | ClCCCCC(=O)C=1C=CC2=C(CCO2)C1 | C13H15ClO2
